US09126993B2
Using general procedure D, 2-methyl-2-(m-tolyl)propan-1-amine hydrochloride (100 mg, 0.501 mmol), triethylamine (279 uL, 2.00 mmol), triphosgene (47 mg, 0.18 mmol) and 3-methylquinuclidin-3-amine 2,2,2-trifluoroacetate (140 mg, 0.550 mmol) gave 1-(2-methyl-2-(m-tolyl)propyl)-3-(3-methylquinuclidin-3-yl)urea (41 mg, 25%) as a white solid. 1H NMR (400 MHz, CDCl3) δ 7.23 (t, J=7.7 Hz, 1H), 7.18-7.12 (m, 2H), 7.04 (d, J=7.5 Hz, 1H), 4.12 (s, 1H), 4.08 (t, J=6.0 Hz, 1H), 3.39-3.22 (m, 2H), 2.81-2.62 (m, 6H), 2.34 (s, 3H), 1.98-1.89 (m, 1H), 1.80-1.63 (m, 2H), 1.51-1.23 (m, J=26.9 Hz, 2H), 1.37 (s, 3H), 1.30 (s, 6H) ppm. 13C NMR (100 MHz, CDCl3) δ 157.9, 147.1, 138.2, 128.6, 127.1, 127.1, 123.3, 64.0, 52.2, 52.1, 46.9, 46.7, 39.2, 31.2, 27.1, 26.8, 25.4, 23.5, 22.7, 21.9. Purity: >99.9% UPLCMS (210 nm); retention time 0.79 min; (M+1) 330.

reactant | 2-methyl-2-(m-tolyl)propan-1-amine hydrochloride | 0.501 mmol, 100 mg | Cl.CC(CN)(C)C=1C=C(C=CC1)C
reactant | triethylamine | 2.00 mmol, 279 uL | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 0.18 mmol, 47 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 3-methylquinuclidin-3-amine 2,2,2-trifluoroacetate | 0.550 mmol, 140 mg | FC(C(=O)O)(F)F.CC1(CN2CCC1CC2)N
product | 1-(2-methyl-2-(m-tolyl)propyl)-3-(3-methylquinuclidin-3-yl)urea | 41 mg, 25% | CC(CNC(=O)NC1(CN2CCC1CC2)C)(C)C=2C=C(C=CC2)C | C20H31N3O
